US04147780
The procedure described in Example 36B was repeated using DL-1-benzhydrylamino-1-(fur-2-yl)-methanephosphonous acid instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give DL-1-amino-1-(fur-2-yl)-methanephosphonous acid, melting point 221°.

reactant | 1-benzhydrylamino-1-(fur-2-yl)-methanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(P(O)O)C=1OC=CC1 | C18H18NO3P
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-amino-1-(fur-2-yl)-methanephosphonous acid | NC(P(O)O)C=1OC=CC1 | C5H8NO3P
